US08754127B2
Preparation of N-acetyl-(R)-(−)-3-(4-aminophenyl)-2-methoxypropionic acid (N-Acetyl E2); Compound A
To (R)-(−)-3-(4-aminophenyl)-2-methoxypropionic acid (40 g) in a 0.5 L glass reactor was added ethyl acetate (80 g) and acetic anhydride (62.8 g). The mixture was stirred at 90° C. for 1 hour. Upon cooling, the solvent was removed by vacuum distillation, providing an oily residue. To this residue was added water (120 g) and ethyl acetate (120 g). After stirring for 10 min at 35° C., the layers were separated and the aqueous layer discarded. The organic layer solvent was removed by vacuum distillation. Acetone (120 g) was then added and the resulting mixture was warmed until dissolution was complete. The solution was cooled to 0° C., and the product precipitated which was collected by filtration. The solid was rinsed with acetone (20 g) and dried at 65° C. to afford 26 g of the title compound.

reactant | (R)-(−)-3-(4-aminophenyl)-2-methoxypropionic acid | 40 g | NC1=CC=C(C=C1)C[C@H](C(=O)O)OC | C10H13NO3
reactant | acetic anhydride | 62.8 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 120 g | O | H2O
solvent | ethyl acetate | 120 g | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 80 g | C(C)(=O)OCC | C4H8O2
product | N-acetyl-(R)-(−)-3-(4-aminophenyl)-2-methoxypropionic acid | 26 g | C(C)(=O)NC1=CC=C(C=C1)C[C@H](C(=O)O)OC | C12H15NO4
